US06008245
4.25 g (39 mmol) of methyl-methanesulfonamide in 7.5 ml of DMSO were added dropwise to a suspension of 0.21 g (7 mmol) of 80 percent sodium hydride in 15 ml of DMSO, and the mixture was stirred at RT for 30 min. 8.2 g (29 mmol) of 6-benzyloxy-2,2-dimethyl-3,4-epoxychroman, dissolved in 18 ml of DMSO were then added dropwise, and the batch was heated at 50° C. for 2 days. The mixture was subsequently poured into water and the precipitate was filtered off with suction and dried well under reduced pressure, giving 8.8 g of N-(6-benzyloxy-3-hydroxy-2,2-dimethylchroman-4-yl)-N-methyl-methanesulfonamide, m.p. 162-164° C.

reactant | methyl-methanesulfonamide | 39 mmol, 4.25 g | CCS(=O)(=O)N | C2H7NO2S
reactant | sodium hydride | 7 mmol, 0.21 g | [H-].[Na+]
reactant | 6-benzyloxy-2,2-dimethyl-3,4-epoxychroman | 29 mmol, 8.2 g | C(C1=CC=CC=C1)OC=1C=C2C3C(C(OC2=CC1)(C)C)O3 | C18H18O3
reactant | water | O | H2O
reactant | DMSO | 7.5 ml | CS(=O)C | C2H6OS
reactant | DMSO | 15 ml | CS(=O)C | C2H6OS
reactant | DMSO | 18 ml | CS(=O)C | C2H6OS
product | N-(6-benzyloxy-3-hydroxy-2,2-dimethylchroman-4-yl)-N-methyl-methanesulfonamide | 8.8 g | C(C1=CC=CC=C1)OC=1C=C2C(C(C(OC2=CC1)(C)C)O)N(S(=O)(=O)C)C | C20H25NO5S
